US08431569B2
Step 2. 7-Chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide
To a stirred solution of 7-chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile (10.1 g, 30 mmol) in DMSO (300 mL) were added potassium carbonate (24.9 g, 180 mmol) and 30% H2O2 (36.8 mL, 360 mmol). The reaction mixture was heated to 85° C. for 5 h, treated with additional reagents (30.7 mL of 30% H2O2 and 20.8 g of potassium carbonate), heated to 85° C. for 3 h, cooled to room temperature, and diluted with EtOAc and water. The mixture was extracted with EtOAc (×3). The combined organics were washed with brine, dried (sodium sulfate), concentrated, and purified by flash chromatography to provide the title compound. 1H NMR (500 MHz, CD3SOCD3) δ 11.67 (s, 1H); 8.47 (s, 1H); 8.41 (d, 1H); 7.83 (br s, 1H); 7.78 (d, 1H); 7.26 (dd, 1H); 7.18 (br s, 1H); 6.57 (d, 1H); 3.61 (q, 1H); 1.35 (m, 2H); 0.51 (m, 2H); 0.32-0.40 (m, 6H). LRMS (APCI) calc'd for (C19H19ClN4O) [M+H]+, 355.1. found 355.1.

reactant | 7-chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carbonitrile | 30 mmol, 10.1 g | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3NC(C3CC3)C3CC3)C#N | C19H17ClN4
reactant | potassium carbonate | 180 mmol, 24.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | H2O2 | 360 mmol, 36.8 mL | OO | H2O2
reactant | H2O2 | 30.7 mL | OO | H2O2
reactant | potassium carbonate | 20.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 7-Chloro-1-[(dicyclopropylmethyl)amino]-5H-pyrido[4,3-b]indole-4-carboxamide | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3NC(C3CC3)C3CC3)C(=O)N | C19H19ClN4O
